US04894446
(b) Synthesis of bis (1,3,5-tri(tertbutyl)benzene Yttrium
Vapourised yttrium [ca 0.9 g (10 mmol)] was cocondensed with 25 g (100 mmol) of 1,3,5-tri(tertbutyl) benzene at -196° C. over a period of 2 hours. The cocondensate was allowed to warm to room temperature under argon and the solid products extracted from the apparatus with n-hexane (ca 750 cm3). The resultant deep purple solution was filtered through a bed of Celite on a frit and the solvent removed under reduced pressure. Excess of the 1,3,5-tri(tertbutyl)benzene was then removed by the sublimation at 60° C./10-4 mbar and the residue extracted with n-pentane (ca 150 cm3). The resulting solution was again filtered through Celite. Concentration of the resultant solution under reduced pressure and cooling to -30° C. afforded deep purple crystals of the complex. The crystals were collected, washed with n-pentane at -80° C. (2×10 cm3) and dried in vacuo. Yield ca 2.4 g (40% based on yttrium).

reactant | yttrium | 10 mmol, ca 0.9 g | [Y] | Y
reactant | 1,3,5-tri(tertbutyl) benzene | 100 mmol, 25 g | C(C)(C)(C)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C18H30
product | 1,3,5-tri(tertbutyl)benzene Yttrium | [Y].C(C)(C)(C)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | InChI=1S/C18H30.Y/c1-16(2,3)13-10-14(17(4,5)6)12-15(11-13)18(7,8)9;/h10-12H,1-9H3;
